US05084460
4-Amino-5-chloro-2-hydroxybenzoic acid
A cooled (5° C.) suspension of 60% sodium hydride oil dispersion (20.0 g, 0.5 mole) in anhydrous dimethylformamide (300 ml) under nitrogen was treated dropwise with ethyl mercaptan (18.7 g, 0.3 mole) while maintaining the reaction temperature below 15° C. The solution was stirred for 15 minutes at 25° C., cooled (5° C.), and treated in small portions with 4-amino-5-chloro-2-methoxybenzoic acid (40.33 g, 0.2 mole). The mixture was heated to 105°±5° C. for 4 hours, cooled, concentrated in vacuo to remove most of the dimethylformamide, then diluted with water (500 ml). The aqueous solution was extracted with methylene chloride (2×150 ml), then with ether (150 ml), acidified with concentrated HCl (55 ml), filtered, and the filter cake was washed with water and dried in vacuo in the presence of Drierite to provide a crude product. The product was recrystallized from tetrahydrofuran/hexane to yield 31.3 g (83%) of white solid, mp 192° C.

reactant | sodium hydride oil dispersion | 0.5 mole, 20.0 g | [H-].[Na+]
reactant | ethyl mercaptan | 0.3 mole, 18.7 g | C(C)S | C2H6S
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.2 mole, 40.33 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 4-Amino-5-chloro-2-hydroxybenzoic acid | 31.3 g, 83% | NC1=CC(=C(C(=O)O)C=C1Cl)O | C7H6ClNO3
